data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CCc1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1.[Pd]", "products": "CCc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1"}, {"reactants": "CCc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1", "products": "CCc1ccc2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "CCc1ccc2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "CCc1ccc2c(c1)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Clc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c(Cl)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Cl)cc2Cl)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Cl)cc2Cl)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)cc1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)cc1Cl", "products": "O=C1CCN2C[C@H](OCc3ccc(Cl)cc3Cl)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1.[Pd]", "products": "COc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "COc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "COc1ccc2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1ccc2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1ccc2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(OC)ccc1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(OC)ccc1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(OC)ccc1F)C(C)C", "products": "COc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "COc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "COc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "COc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "COc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "COc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(Cl)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(Cl)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(Cl)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(Cl)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(Cl)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(Cl)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1CCC(CC)(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N1C(=O)Cc1cn(C)c2ccccc12.[Rh]", "products": "CCC1CCC(CC)(C(=O)[C](=[Rh])C(=O)OC)C(=O)N1C(=O)Cc1cn(C)c2ccccc12.N#N"}, {"reactants": "CCC1CCC(CC)(C(=O)[C](=[Rh])C(=O)OC)C(=O)N1C(=O)Cc1cn(C)c2ccccc12", "products": "CCC1CCC2(CC)C(=O)[C-](C(=O)OC)[O+]=C2N1C(=O)Cc1cn(C)c2ccccc12.[Rh]"}, {"reactants": "CCC1CCC2(CC)C(=O)[C-](C(=O)OC)[O+]=C2N1C(=O)Cc1cn(C)c2ccccc12", "products": "CCC1CCC2(CC)C(=O)C3(C(=O)OC)OC24N1C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(C)cc(Cl)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)cc(Cl)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)cc(Cl)c1)C(C)C", "products": "Cc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "Cc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "Cc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "Cc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "Cc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "Cc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
